US04540732
3-(3,5-Di-tert-butyl-2-hydroxyphenylthio)propanoic acid methyl ester
In a 50 ml flask under nitrogen, a mixture of 5.00 grams of 2,4-di-tert-butyl-6-mercaptophenol, 1.80 grams of methyl acrylate and 20 mls toluene was treated with 0.50 mls of triethylamine. After stirring for three hours at ambient temperature, the solvent was removed in vacuo. The residue was purified by chromatography on silica gel using toluene/heptane eluent to give 3.90 g (57% yield) of a colorless oil.

reactant | 2,4-di-tert-butyl-6-mercaptophenol | 5.00 grams | C(C)(C)(C)C1=C(C(=CC(=C1)C(C)(C)C)S)O | C14H22OS
reactant | methyl acrylate | 1.80 grams | C(C=C)(=O)OC | C4H6O2
reactant | toluene | 20 mls | C1(=CC=CC=C1)C | C7H8
solvent | triethylamine | 0.50 mls | C(C)N(CC)CC | C6H15N
product | 3-(3,5-Di-tert-butyl-2-hydroxyphenylthio)propanoic acid methyl ester | 3.90 g, 57% yield | COC(CCSC1=C(C(=CC(=C1)C(C)(C)C)C(C)(C)C)O)=O | C18H28O3S
